US08466191B2
methyl 3-amino-3-(3-benzyloxy-4-methoxy-phenyl)propionate
The title compound was prepared following the method for preparing Intermediate 6 except that 3-amino-3-(3,4-dimethoxy-phenyl)propionic acid was substituted with 3-amino-3-(3-benzyloxy-4-methoxy-phenyl)propionic acid. 1H NMR (CDCl3): δ 7.26-7.44 (m, 5H), 6.82-6.93 (m, 3H), 5.13 (s, 2H), 4.31 (t, 1H, J=5 Hz), 3.85 (s, 3H), 3.64 (s, 3H), 2.57 (d, 2H, J=5 Hz), 1.80 (d, 2H, J=5 Hz).

reactant | 3-amino-3-(3,4-dimethoxy-phenyl)propionic acid | NC(CC(=O)O)C1=CC(=C(C=C1)OC)OC | C11H15NO4
reactant | 3-amino-3-(3-benzyloxy-4-methoxy-phenyl)propionic acid | NC(CC(=O)O)C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1 | C17H19NO4
product | methyl 3-amino-3-(3-benzyloxy-4-methoxy-phenyl)propionate | NC(CC(=O)OC)C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1 | C18H21NO4
